US04200648
p-carbomethoxybenzaldehye (0.20 moles) was treated with 2-methyl-3-chloroaniline (0.20 moles) with vigorous stirring in a 1 liter Erlenmeyer flask. After 15 mins., 33 cc of 95% ethanol was added and the reaction mixture was stirred vigorously for an additional 45 mins. The reaction mixture was left standing at room temperature for 10 min., then it was placed in an ice bath for 0.5 hours. The crystals which formed were collected, washed with 95% ethanol, and air dried. Recrystallization from 95% ethanol gave N-(p-carbomethoxybenzylidene)-2-methyl-3-chloroaniline.

reactant | p-carbomethoxybenzaldehye | 0.20 moles | C(=O)(OC)C1=CC=C(C=O)C=C1 | C9H8O3
reactant | 2-methyl-3-chloroaniline | 0.20 moles | CC1=C(N)C=CC=C1Cl | C7H8ClN
solvent | ethanol | 33 cc | C(C)O | C2H6O
product | N-(p-carbomethoxybenzylidene)-2-methyl-3-chloroaniline | C(=O)(OC)C1=CC=C(C=NC2=C(C(=CC=C2)Cl)C)C=C1 | C16H14ClNO2
